************************************************************************
* Library Name: ETROC1_HsLib
* Cell Name:    TIEH_LVT_ELT
* View Name:    schematic
************************************************************************

.SUBCKT TIEH_LVT_ELT VDD VSS ZN
*.PININFO ZN:O VDD:B VSS:B
MM0_ELT net5 net5 VSS VSS nch_lvt l=60n w=1.42u m=1
MM1_ELT ZN net5 VDD VDD pch_lvt l=60n w=3.74u m=1
.ENDS

************************************************************************
* Library Name: ETROC1_HsLib
* Cell Name:    ND2D1_LVT_ELT
* View Name:    schematic
************************************************************************

.SUBCKT ND2D1_LVT_ELT A1 A2 VDD VSS ZN
*.PININFO A1:I A2:I ZN:O VDD:B VSS:B
MM2_ELT ZN A1 net014 VSS nch_lvt l=60n w=1.42u m=1
MM1_ELT net014 A2 VSS VSS nch_lvt l=60n w=1.42u m=1
MM11_ELT ZN A2 VDD VDD pch_lvt l=60n w=3.74u m=1
MM10_ELT ZN A1 VDD VDD pch_lvt l=60n w=3.74u m=1
.ENDS

************************************************************************
* Library Name: ETROC1_HsLib
* Cell Name:    INVD2_LVT_ELT
* View Name:    schematic
************************************************************************

.SUBCKT INVD2_LVT_ELT I VDD VSS ZN
*.PININFO I:I ZN:O VDD:B VSS:B
MM0_ELT ZN I VSS VSS nch_lvt l=60n w=1.42u m=1
MM3_ELT ZN I VSS VSS nch_lvt l=60n w=1.42u m=1
MM2_ELT ZN I VDD VDD pch_lvt l=60n w=3.74u m=1
MM1_ELT ZN I VDD VDD pch_lvt l=60n w=3.74u m=1
.ENDS

************************************************************************
* Library Name: ETROC1_HsLib
* Cell Name:    TIEL_LVT_ELT
* View Name:    schematic
************************************************************************

.SUBCKT TIEL_LVT_ELT VDD VSS ZN
*.PININFO ZN:O VDD:B VSS:B
MM0_ELT ZN net5 VSS VSS nch_lvt l=60n w=1.42u m=1
MM1_ELT net5 net5 VDD VDD pch_lvt l=60n w=3.74u m=1
.ENDS

************************************************************************
* Library Name: ETROC1_HsLib
* Cell Name:    DCAP25n_LVT_ELT
* View Name:    schematic
************************************************************************

.SUBCKT DCAP25n_LVT_ELT VDD VSS
*.PININFO VDD:B VSS:B
MM4 VSS VDD VSS VSS nch_25 l=4.115u w=2.44u m=1
.ENDS