************************************************************************
* auCdl Netlist:
* 
* Library Name:  ETROC0A_Analog
* Top Cell Name: PreAmp
* View Name:     schematic
* Netlisted on:  Apr 21 22:06:31 2022
************************************************************************

*.INCLUDE  /asic/cad/Library/tsmc/TSMC65_CERN_2017_DL20/V1.7A_1/1p9m6x1z1u/tsmcN65/../PVS_QRC/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ETROC0A_Analog
* Cell Name:    PreAmpDBuf
* View Name:    schematic
************************************************************************

.SUBCKT PreAmpDBuf in out vdd vss
*.PININFO in:I out:O vdd:B vss:B
MM2 out net10 vdd vdd pch l=60n w=800n m=2
MM1 net10 in vdd vdd pch l=60n w=800n m=2
MM3 out net10 vss vss nch l=60n w=400n m=2
MM0 net10 in vss vss nch l=60n w=400n m=2
.ENDS

************************************************************************
* Library Name: ETROC0A_Analog
* Cell Name:    PreAmp_core
* View Name:    schematic
************************************************************************

.SUBCKT PreAmp_core CLSel<1> CLSel<0> IB RfSel<1> RfSel<0> V1 _IBSel<2> 
+ _IBSel<1> _IBSel<0> in out ps1 vdd vss
*.PININFO CLSel<1>:I CLSel<0>:I IB:I RfSel<1>:I RfSel<0>:I _IBSel<2>:I 
*.PININFO _IBSel<1>:I _IBSel<0>:I in:I out:O V1:B ps1:B vdd:B vss:B
XM1 ps1 V1 net8 vss vdd vss nmos_rf_lvt_6t lr=100n wr=2u nr=4 m=1
XM0 net8 in vss vss vdd vss nmos_rf_lvt_6t lr=160.0n wr=2.4u nr=12 m=6
XM12 V1 IB vdd vdd vss pmos_rf_lvt_5t lr=240.0n wr=3u nr=12 m=1
XM11 vss ps1 out out vss pmos_rf_lvt_5t lr=65.0n wr=3u nr=8 m=2
XM5 IB IB vdd vdd vss pmos_rf_lvt_5t lr=240.0n wr=3u nr=12 m=1
XM3 net017 IB vdd vdd vss pmos_rf_lvt_5t lr=240.0n wr=3u nr=12 m=6
XM7 ps1 vss net017 vdd vss pmos_rf_lvt_5t lr=120.0n wr=1u nr=2 m=1
MM6 V1 V1 vss vss nch l=2.5u w=4u m=1
MM2<1> net044<0> CLSel<1> vss vss nch l=60n w=1.8u m=8
MM2<0> net044<1> CLSel<0> vss vss nch l=60n w=1.8u m=8
DD1 vss vdd pwdnw area=6.1356e-11 pj=0.00122732 m=1
MM4<2> net046<0> _IBSel<2> vdd vdd pch_lvt l=100n w=10u m=8
MM4<1> net046<1> _IBSel<1> vdd vdd pch_lvt l=100n w=10u m=8
MM4<0> net046<2> _IBSel<0> vdd vdd pch_lvt l=100n w=10u m=8
XC1<1> ps1 net044<0> vss crtmom_rf nv=36 nh=36 w=120.0n s=120.0n stm=2 spm=4 
+ m=1
XC1<0> ps1 net044<1> vss crtmom_rf nv=36 nh=36 w=120.0n s=120.0n stm=2 spm=4 
+ m=1
XR0 vdd out rppolywo l=16.0u w=2.8u m=1
XR4 in ps1 rppolywo l=80u w=2.8u m=1
XR3 net038 ps1 rppolywo l=32.0u w=2.8u m=1
XR1<2> net046<0> net8 rppolywo l=16.0u w=2.8u m=1
XR1<1> net046<1> net8 rppolywo l=16.0u w=2.8u m=1
XR1<0> net046<2> net8 rppolywo l=16.0u w=2.8u m=1
XR6 vdd net8 rppolywo l=16.0u w=2.8u m=1
XR2 net042 ps1 rppolywo l=80u w=2.8u m=1
DD0 vss vdd dnwpsub area=8.98935e-11 pj=0.00179807 m=1
MM10<3> net042 RfSel<0> in vss nch_lvt_dnw l=60n w=1u m=4
MM10<2> net042 RfSel<0> in vss nch_lvt_dnw l=60n w=1u m=4
MM10<1> net042 RfSel<0> in vss nch_lvt_dnw l=60n w=1u m=4
MM10<0> net042 RfSel<0> in vss nch_lvt_dnw l=60n w=1u m=4
MM9<3> net038 RfSel<1> in vss nch_lvt_dnw l=60n w=1u m=4
MM9<2> net038 RfSel<1> in vss nch_lvt_dnw l=60n w=1u m=4
MM9<1> net038 RfSel<1> in vss nch_lvt_dnw l=60n w=1u m=4
MM9<0> net038 RfSel<1> in vss nch_lvt_dnw l=60n w=1u m=4
.ENDS

************************************************************************
* Library Name: ETROC0A_Analog
* Cell Name:    PreAmp_moscap1
* View Name:    schematic
************************************************************************

.SUBCKT PreAmp_moscap1 netn netp
*.PININFO netn:B netp:B
MM14 netn netp netn netn nch l=500n w=3u m=4
.ENDS

************************************************************************
* Library Name: ETROC0A_Analog
* Cell Name:    PreAmp
* View Name:    schematic
************************************************************************

.SUBCKT PreAmp CLSel<1> CLSel<0> IB RfSel<1> RfSel<0> _IBSel<2> _IBSel<1> 
+ _IBSel<0> in out ps1 vdd vss
*.PININFO CLSel<1>:I CLSel<0>:I IB:I RfSel<1>:I RfSel<0>:I _IBSel<2>:I 
*.PININFO _IBSel<1>:I _IBSel<0>:I in:I out:O ps1:B vdd:B vss:B
XI7<2> _IBSel<2> _IBSel_int<2> vdd vss / PreAmpDBuf
XI7<1> _IBSel<1> _IBSel_int<1> vdd vss / PreAmpDBuf
XI7<0> _IBSel<0> _IBSel_int<0> vdd vss / PreAmpDBuf
XI9<1> RfSel<1> RfSel_int<1> vdd vss / PreAmpDBuf
XI9<0> RfSel<0> RfSel_int<0> vdd vss / PreAmpDBuf
XI6<1> CLSel<1> CLSel_int<1> vdd vss / PreAmpDBuf
XI6<0> CLSel<0> CLSel_int<0> vdd vss / PreAmpDBuf
XI4 CLSel_int<1> CLSel_int<0> IB RfSel_int<1> RfSel_int<0> v1 _IBSel_int<2> 
+ _IBSel_int<1> _IBSel_int<0> in out ps1 vdd vss / PreAmp_core
XI3<1> vss v1 / PreAmp_moscap1
XI3<2> vss v1 / PreAmp_moscap1
XI3<3> vss v1 / PreAmp_moscap1
XI3<4> vss v1 / PreAmp_moscap1
XI3<5> vss v1 / PreAmp_moscap1
XI3<6> vss v1 / PreAmp_moscap1
XI3<7> vss v1 / PreAmp_moscap1
XI3<8> vss v1 / PreAmp_moscap1
XI3<9> vss v1 / PreAmp_moscap1
XI3<10> vss v1 / PreAmp_moscap1
XI3<11> vss v1 / PreAmp_moscap1
XI3<12> vss v1 / PreAmp_moscap1
XI3<13> vss v1 / PreAmp_moscap1
XI3<14> vss v1 / PreAmp_moscap1
XI3<15> vss v1 / PreAmp_moscap1
XI3<16> vss v1 / PreAmp_moscap1
XI3<17> vss v1 / PreAmp_moscap1
XI3<18> vss v1 / PreAmp_moscap1
XI3<19> vss v1 / PreAmp_moscap1
XI3<20> vss v1 / PreAmp_moscap1
XI3<21> vss v1 / PreAmp_moscap1
XI3<22> vss v1 / PreAmp_moscap1
XI3<23> vss v1 / PreAmp_moscap1
XI3<24> vss v1 / PreAmp_moscap1
XI3<25> vss v1 / PreAmp_moscap1
XI3<26> vss v1 / PreAmp_moscap1
XI3<27> vss v1 / PreAmp_moscap1
XI3<28> vss v1 / PreAmp_moscap1
XI3<29> vss v1 / PreAmp_moscap1
XI3<30> vss v1 / PreAmp_moscap1
XI3<31> vss v1 / PreAmp_moscap1
XI3<32> vss v1 / PreAmp_moscap1
XI3<33> vss v1 / PreAmp_moscap1
XI3<34> vss v1 / PreAmp_moscap1
XI3<35> vss v1 / PreAmp_moscap1
XI3<36> vss v1 / PreAmp_moscap1
XI3<37> vss v1 / PreAmp_moscap1
XI3<38> vss v1 / PreAmp_moscap1
XI3<39> vss v1 / PreAmp_moscap1
XI3<40> vss v1 / PreAmp_moscap1
XI3<41> vss v1 / PreAmp_moscap1
XI3<42> vss v1 / PreAmp_moscap1
XI3<43> vss v1 / PreAmp_moscap1
XI3<44> vss v1 / PreAmp_moscap1
XI3<45> vss v1 / PreAmp_moscap1
XI3<46> vss v1 / PreAmp_moscap1
XI3<47> vss v1 / PreAmp_moscap1
XI3<48> vss v1 / PreAmp_moscap1
XI3<49> vss v1 / PreAmp_moscap1
XI3<50> vss v1 / PreAmp_moscap1
XI3<51> vss v1 / PreAmp_moscap1
XI3<52> vss v1 / PreAmp_moscap1
XI3<53> vss v1 / PreAmp_moscap1
XI3<54> vss v1 / PreAmp_moscap1
XI3<55> vss v1 / PreAmp_moscap1
XI3<56> vss v1 / PreAmp_moscap1
XI3<57> vss v1 / PreAmp_moscap1
XI3<58> vss v1 / PreAmp_moscap1
XI3<59> vss v1 / PreAmp_moscap1
XI3<60> vss v1 / PreAmp_moscap1
XI3<61> vss v1 / PreAmp_moscap1
XI3<62> vss v1 / PreAmp_moscap1
XI3<63> vss v1 / PreAmp_moscap1
XI3<64> vss v1 / PreAmp_moscap1
XI3<65> vss v1 / PreAmp_moscap1
XI3<66> vss v1 / PreAmp_moscap1
XI3<67> vss v1 / PreAmp_moscap1
XI3<68> vss v1 / PreAmp_moscap1
XI3<69> vss v1 / PreAmp_moscap1
XI3<70> vss v1 / PreAmp_moscap1
XI3<71> vss v1 / PreAmp_moscap1
XI3<72> vss v1 / PreAmp_moscap1
XI3<73> vss v1 / PreAmp_moscap1
XI3<74> vss v1 / PreAmp_moscap1
XI3<75> vss v1 / PreAmp_moscap1
XI3<76> vss v1 / PreAmp_moscap1
XI5<1> vss IB / PreAmp_moscap1
XI5<2> vss IB / PreAmp_moscap1
XI5<3> vss IB / PreAmp_moscap1
XI5<4> vss IB / PreAmp_moscap1
XI5<5> vss IB / PreAmp_moscap1
XI5<6> vss IB / PreAmp_moscap1
XI5<7> vss IB / PreAmp_moscap1
XI5<8> vss IB / PreAmp_moscap1
XI5<9> vss IB / PreAmp_moscap1
XI5<10> vss IB / PreAmp_moscap1
XI5<11> vss IB / PreAmp_moscap1
XI5<12> vss IB / PreAmp_moscap1
XI5<13> vss IB / PreAmp_moscap1
XI5<14> vss IB / PreAmp_moscap1
XI5<15> vss IB / PreAmp_moscap1
XI5<16> vss IB / PreAmp_moscap1
XI5<17> vss IB / PreAmp_moscap1
XI5<18> vss IB / PreAmp_moscap1
XI5<19> vss IB / PreAmp_moscap1
XI5<20> vss IB / PreAmp_moscap1
XI5<21> vss IB / PreAmp_moscap1
XI5<22> vss IB / PreAmp_moscap1
XI5<23> vss IB / PreAmp_moscap1
XI5<24> vss IB / PreAmp_moscap1
XI5<25> vss IB / PreAmp_moscap1
XI5<26> vss IB / PreAmp_moscap1
XI5<27> vss IB / PreAmp_moscap1
XI5<28> vss IB / PreAmp_moscap1
XI5<29> vss IB / PreAmp_moscap1
XI5<30> vss IB / PreAmp_moscap1
XI5<31> vss IB / PreAmp_moscap1
XI5<32> vss IB / PreAmp_moscap1
XI5<33> vss IB / PreAmp_moscap1
XI5<34> vss IB / PreAmp_moscap1
XI5<35> vss IB / PreAmp_moscap1
XI5<36> vss IB / PreAmp_moscap1
XI5<37> vss IB / PreAmp_moscap1
XI5<38> vss IB / PreAmp_moscap1
XI5<39> vss IB / PreAmp_moscap1
XI5<40> vss IB / PreAmp_moscap1
XI5<41> vss IB / PreAmp_moscap1
XI5<42> vss IB / PreAmp_moscap1
XI5<43> vss IB / PreAmp_moscap1
XI5<44> vss IB / PreAmp_moscap1
XI5<45> vss IB / PreAmp_moscap1
XI5<46> vss IB / PreAmp_moscap1
XI5<47> vss IB / PreAmp_moscap1
XI5<48> vss IB / PreAmp_moscap1
XI5<49> vss IB / PreAmp_moscap1
XI5<50> vss IB / PreAmp_moscap1
XI5<51> vss IB / PreAmp_moscap1
XI5<52> vss IB / PreAmp_moscap1
XI5<53> vss IB / PreAmp_moscap1
XI5<54> vss IB / PreAmp_moscap1
XI5<55> vss IB / PreAmp_moscap1
XI5<56> vss IB / PreAmp_moscap1
XI5<57> vss IB / PreAmp_moscap1
XI5<58> vss IB / PreAmp_moscap1
XI5<59> vss IB / PreAmp_moscap1
XI5<60> vss IB / PreAmp_moscap1
XI5<61> vss IB / PreAmp_moscap1
XI5<62> vss IB / PreAmp_moscap1
XI5<63> vss IB / PreAmp_moscap1
XI5<64> vss IB / PreAmp_moscap1
XI5<65> vss IB / PreAmp_moscap1
XI5<66> vss IB / PreAmp_moscap1
XI5<67> vss IB / PreAmp_moscap1
XI5<68> vss IB / PreAmp_moscap1
.ENDS

