************************************************************************
* auCdl Netlist:
* 
* Library Name:  ETROC2_Core
* Top Cell Name: opamp2
* View Name:     schematic
* Netlisted on:  Apr 21 17:17:50 2022
************************************************************************

.INCLUDE  $TSMC_PDK/tsmcN65/../PVS_QRC/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ETROC2_Core
* Cell Name:    opamp2
* View Name:    schematic
************************************************************************

.SUBCKT opamp2 inn inp out pd vdd vss
*.PININFO inn:I inp:I pd:I out:O vdd:B vss:B
MM3 net082 inn bulk1 bulk1 nch_lvt_dnw l=600n w=8u m=32
MM0 net24 inp bulk1 bulk1 nch_lvt_dnw l=600n w=8u m=32
MM43 vdd b1 vdd vdd pch l=300n w=2u m=1
MM42 vdd b1 vdd vdd pch l=300n w=2u m=1
MM39 net0142 b1 vdd vdd pch l=300n w=2u m=4
MM31 a1 b1 vdd vdd pch l=300n w=2u m=4
MM25 b1 b1 vdd vdd pch l=300n w=2u m=4
MM44 net0105 net0105 vdd vdd pch l=6u w=2u m=1
MM33 pdb _pd vdd vdd pch l=60n w=1u m=2
MM30 _pd pd vdd vdd pch l=60n w=1u m=2
MM28 net046 pdb net0142 vdd pch l=60n w=200n m=1
MM24 net65 net65 vdd vdd pch l=1.5u w=8u m=4
MM22 out net0109 vdd vdd pch l=1u w=12.0u m=8
MM20 net31 net31 vdd vdd pch l=1u w=12.0u m=1
MM19 net60 net31 vdd vdd pch l=1u w=12.0u m=1
MM18 net30 net0109 net60 vdd pch l=1u w=12.0u m=1
MM40 net0109 net15 net24 vdd pch l=1u w=12.0u m=4
MM41 net0115 net15 net24 vdd pch l=1u w=12.0u m=4
MM36 net24 net65 vdd vdd pch l=1.5u w=8u m=8
MM37 net082 net65 vdd vdd pch l=1.5u w=8u m=8
MM6 net62 net15 net082 vdd pch l=1u w=12.0u m=8
MM5 net15 net15 vdd vdd pch l=1u w=2u m=1
MM38 net12 net65 vdd vdd pch l=1.5u w=8u m=4
XR2 net093 out rppolywo l=7.11u w=2u m=1
XR1 bulk2 vss rppolywo l=67.5u w=1.1u m=1
XC0 net0109 net093 vdd crtmom nv=34 nh=36 w=105.00n s=105.00n stm=1 spm=4 m=7
XC2 net093 net0115 vdd crtmom nv=34 nh=36 w=105.00n s=105.00n stm=1 spm=4 m=7
MM13 b1 net0105 a1 vss nch_dnw l=120.0n w=2u m=8
MM12 a1 a1 vss vss nch_dnw l=300n w=2u m=4
MM11 b1 a1 bulk2 bulk2 nch_dnw l=300n w=2u m=8
MM10 net0105 a1 vss vss nch_dnw l=300n w=2u m=4
MM9 vss a1 vss vss nch_dnw l=300n w=2u m=1
MM1 vss a1 vss vss nch_dnw l=300n w=2u m=1
MM2 bulk1 net046 vss vss nch l=1.5u w=8u m=4
MM32 pdb _pd vss vss nch l=60n w=1u m=1
MM29 _pd pd vss vss nch l=60n w=1u m=1
MM27 net0142 _pd net046 vss nch l=60n w=1u m=4
MM26 net046 net046 vss vss nch l=1.5u w=8u m=2
MM34 net65 net046 vss vss nch l=1.5u w=8u m=2
MM23 out net0115 vss vss nch l=1u w=4u m=8
MM21 net31 net0115 vss vss nch l=1u w=4u m=1
MM17 net30 net30 vss vss nch l=12.0u w=2u m=1
MM16 net21 net62 vss vss nch l=1.5u w=8u m=4
MM15 net0115 net30 net21 vss nch l=1u w=8u m=2
MM14 net0109 net12 net21 vss nch l=1u w=8u m=2
MM35 net15 net046 vss vss nch l=1.5u w=8u m=2
MM8 net40 net62 vss vss nch l=1.5u w=8u m=4
MM7 net62 net12 net40 vss nch l=1u w=8u m=4
MM4 net12 net12 vss vss nch l=12.0u w=2u m=2
DD0 vss vdd dnwpsub area=1.01902e-09 pj=0.00204004 m=1
DD4 bulk2 vdd pwdnw area=3.995e-11 pj=2.799e-05 m=1
DD3 vss vdd pwdnw area=5.70151e-11 pj=0.011403 m=1
DD2 bulk1 vdd pwdnw area=7.8198e-10 pj=0.00156596 m=1
.ENDS

